US06362373B1
A 100-mL, single-neck flask equipped with a magnetic stirring bar and a reflux condenser fitted with a nitrogen bubbler was charged with 4.75 g (0.037 mol) of (S)-(−)-1-cyclohexylethylamine, 23.00 g (0.151 mol) of (S)-(−)-limonene oxide, and 2.0 mL of deionized water. The mixture was heated to reflux and held there for 109.75 h. The reaction mixture was cooled to room temperature and filtered to remove an insoluble white solid. The excess limonene oxide was then distilled off at reduced pressure leaving an orange oil that crystallized upon standing over night. The solid was recrystallized from approximately 20 mL of n-heptane to give 3.48 g of (1R,2R,4S)-2-((1S)-1-cyclohexylethylamino)-1-methyl-4-(1-methylethenyl) cyclohexanol, as a white solid, mp 63-64° C.

reactant | (S)-(−)-1-cyclohexylethylamine | 0.037 mol, 4.75 g | C1(CCCCC1)[C@H](C)N | C8H17N
reactant | (S)-(−)-limonene oxide | 0.151 mol, 23.00 g | CC(=C)[C@H]1CC[C@@]2([C@H](C1)O2)C | C10H16O
solvent | water | 2.0 mL | O | H2O
product | (1R,2R,4S)-2-((1S)-1-cyclohexylethylamino)-1-methyl-4-(1-methylethenyl) cyclohexanol | 3.48 g | C1(CCCCC1)[C@H](C)N[C@H]1[C@@](CC[C@@H](C1)C(=C)C)(O)C | C18H33NO
